US07205306B2
5-Bromo-1-(1-ethylpropyl)-3-(5-methoxy-7-methyl-2,3-dihydro-1H-indol-1-yl)-2(1H)-pyrazinone
Prepared in a similar fashion as described for Example 413 using 3,5-dibromo-1-(1-ethylpropyl)-2(1H)-pyrazinone and 5-methoxy-7-methylindoline hydrochloride as the starting materials. mp 152–154° C.; 1H NMR (300 MHz, CDCl3): δ 6.73 (s, 1 H), 6.67 (s, 1 H), 6.59 (d, J=1.9 Hz, 1 H), 4.84–4.76 (m, 1 H), 4.38 (t, J=7.7 Hz, 2 H), 3.78 (s, 3 H), 3.05 (t, J=7.7 Hz, 2 H), 2.06 (s, 3 H), 1.87–1.73 (m, 2 H), 1.70–1.59 (m, 2 H), 0.89 (t, J=7.3 Hz, 6 H); HRMS (ESI) calcd for C19H25N3O2Br (M+H)+: 406.1130; found m/z 406.1125.

reactant | 3,5-dibromo-1-(1-ethylpropyl)-2(1H)-pyrazinone | BrC=1C(N(C=C(N1)Br)C(CC)CC)=O | C9H12Br2N2O
reactant | 5-methoxy-7-methylindoline hydrochloride | Cl.COC=1C=C2CCNC2=C(C1)C
product | 5-Bromo-1-(1-ethylpropyl)-3-(5-methoxy-7-methyl-2,3-dihydro-1H-indol-1-yl)-2(1H)-pyrazinone | BrC=1N=C(C(N(C1)C(CC)CC)=O)N1CCC2=CC(=CC(=C12)C)OC | C19H24BrN3O2
